US04137320
3.4 g of 3-methyl-6-chloromethyl-imidazo-(2,1-b)thiazole are slowly added into 50 ml of cooled and stirred morpholine. The stirring is continued for 1 hour at room temperature and another hour at 40°-50°. The suspension obtained is filtered and the filtrate is evaporated. The residue obtained is dissolved in water and the aqueous solution obtained is extracted with chloroform. The chloroform solution is washed at pH 5-6 with water and after drying it is evaporated. Ethyl acetate is added to the residue to yield 4.5 g of 3-methyl-6-morpholinomethyl-imidazo-(2,1-b)thiazole; m.p. 203°-204° (methyl-ethyl-ketone).

reactant | 3-methyl-6-chloromethyl-imidazo-(2,1-b)thiazole | 3.4 g | CC=1N2C(SC1)=NC(=C2)CCl | C7H7ClN2S
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | 3-methyl-6-morpholinomethyl-imidazo-(2,1-b)thiazole | 4.5 g | CC=1N2C(SC1)=NC(=C2)CN2CCOCC2 | C11H15N3OS
